Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamides) / IV Dye, Iodine Containing / Ace 
Inhibitors
 
Attending: ___.
 
Chief Complaint:
R temporal hemorrhage
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
HPI: The pt is an ___ year-old right handed woman with a past 
medical history significant for HTN, CHF, Afib (not on 
coumadin), and breast cancer who presents approximately 2 weeks 
after a fall and subsequent agitation who was found tonight to 
have a right parieto-temporal edema and some sulcal 
hyperintensity possibly consistent with hemorrhage.  The patient 
presented 2 weeks ago to the ___ with 
shortness of breath.  It is not clear what the workup at that 
time entailed, but the patient was sent home where she sustained 
an episode of LOC with fall.  She reports being in her kitchen 
and going to the fridge for some Coke, and she next remembers 
waking in the floor.  She was unable to tell me how long she was 
down or if she had hit her head.  She denied any aura or warning 
of fall.  She has afib with RVR, but has not had chest pain or 
palpitations.  Of course she has had shortness of breath.  Since 
the fall she has complained of back pain.  
.
ROS
Besides what is noted above the patient endorsed a dammaged left 
ear drum.  She has been more SOB with exertion over the last 
week.  
.
The patient denied HA, difficulty speaking, language problems, 
memory difficulty, difficulty swallowing, dizziness, 
lightheadedness or vertigo, unsteady gait, paresthesias, sensory 
loss, or weakness.
.
The patient denied fever, wt loss, appetite changes, cp, 
palpitations, DOE, sob, cough, wheeze, vomiting, diarrhea, 
constipation, abd pain, fecal incont, dysuria, nocturia, urinary 
incontinence, muscle or joint pain, hot/cold intolerance, 
polyuria, polydipsia, easy bruising, depression, anxiety, 
stress,
or psychotic sx.
 
Past Medical History:
PMH: 
HTN
CHF
Breast Cancer S/P resection in ___.
Afib with RVR
Right shoulder weakness for ___ years.  

 
Social History:
Lives alone in ___. 
No living family. 
Non Smoker, No ETOH, No Illicits.  

 
Physical Exam:
Vitals: T:98.0 P:125 R:18 BP:158/90 SaO2:97% 
General: Awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx 
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity 
Pulmonary: Lungs CTA bilaterally without R/R/W 
Cardiac: RRR, nl. S1S2, no M/R/G noted 
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted. 
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally. 
Skin: no rashes or lesions noted.

Neurologic: 
-Mental Status: Alert, oriented to the ___, but got the Date 
correct.  Able to relate history without difficulty.  Attentive, 
able to name ___ backward without difficulty.  Language is 
fluent with intact repetition and comprehension.  Normal 
prosody.  There were no paraphasic errors.  Pt. was able to name 
both high and low frequency objects.  Able to read without 
difficulty.  Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt. was able to register 3 
objects and recall ___ at 5 minutes.  The pt. had good knowledge 
of current events.  There was no evidence of apraxia or neglect.
.
-Cranial Nerves: Olfaction not tested.  Bilateral surgical 
pupils.  VFF to confrontation.  There is no ptosis bilaterally. 
Funduscopic exam limited by prior surgical eval. EOMI without 
nystagmus.  Normal saccades. Facial sensation intact to 
pinprick. No facial droop, facial musculature symmetric. Hearing 
intact to finger-rub bilaterally.  Palate elevates 
symmetrically.  ___
strength in trapezii and SCM bilaterally. Tongue protrudes in 
midline.
.
-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally. 
No adventitious movements noted. No asterixis noted.
.
Delt Bi Tri WE   FE  FF  
  C5 C6 C7  C6   C7  C8/T1 
L ___  5    5     5    
R ___  5    5     5    
Right shoulder is limited in ROM and force by pain.
.
 IP  Quad ___  ___   ___  PF
 L2   L3  L4-S1  L4   L5  S1/S2
 5    5     5    5   5     5        
 5    5     5    5    5     5        
.
-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense, proprioception throughout. No extinction to 
DSS.
.
-Coordination: No intention tremor, dysdiadochokinesia noted. No 
dysmetria on FNF or HKS bilaterally.
.
- Reflex: No clonus
 Bi  Tri Bra Pat  An   Toes
 C5  C7  C6  L4   S1 CST
LTr   Tr   Tr    Tr    Tr   up
R2   2   Tr    Tr    Tr      up
.
-Gait: Good initiation. Narrow-based. Romberg positive. Can't 
tandem.  Short of breath rapidly.  
 
Pertinent Results:
___ 12:00AM   GLUCOSE-104 UREA N-24* CREAT-0.8 SODIUM-143 
POTASSIUM-3.5 CHLORIDE-102 TOTAL CO2-33* ANION GAP-12
___ 12:00AM   CK(CPK)-376*
___ 12:00AM   CK-MB-4 cTropnT-<0.01
___ 12:00AM   CALCIUM-9.6 PHOSPHATE-3.3 MAGNESIUM-2.4
___ 12:00AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:00AM   WBC-7.7 RBC-3.84* HGB-10.8* HCT-32.9* MCV-86 
MCH-28.1 MCHC-32.8 RDW-14.4
___ 12:00AM   NEUTS-77.7* LYMPHS-9.9* MONOS-6.6 EOS-5.5* 
BASOS-0.4
___ 12:00AM   PLT COUNT-366
___ 12:00AM   ___ PTT-31.1 ___
___ 12:00AM   D-DIMER-1642*
.
OSH CT - R temporal small hemorrhage with surrounding edema, 
grey-white junction intact. 
.
MRI Head:
FINDINGS: On T1-weighted sequences, there is high T1 signal 
within the cortex of the right temporal lobe likely consitent 
with hemorrhagic changes.  Following administration of 
intravenous gadolinium, there is further enhancement of the 
right temporal cortex as well as a small area in the cortex of 
the right insula. This likely represents pseudolaminar necorosis 
and reperfusion phenomena along with cortical hemorrhage in the 
setting of a subacute infarction in the territory of the right 
MCA. On gradient echo sequences, there is low susceptibility 
seen within the right temporal lobe consistent with old blood 
products. There is no discrete mass seen within the right 
temporal lobe. There is no mass effect. There is no shift of 
midline. There is moderate restricted diffusion seen within the 
right temporal lobe consistent with a subacute infarction. There 
are no other areas of restricted diffusion seen. 
.  
On FLAIR sequences, there is high periventricular and 
subcortical signal consistent with small vessel ischemic 
disease. There are normal arterial flow voids seen. There is no 
thickening of the mucosal sinuses. 
. 
IMPRESSION: 
1. Within the right temporal and right insular lobes there is 
cortical hemorrhagic changes and possible pseudolaminar necrosis 
consistent with a subacute area of infarction in the territory 
of the right MCA. 
2. There are no masses seen and there is no mass effect or 
midline shift. 
3. There are no areas of acute infarction seen. 
.
CT Chest, Abd, and Pelvis (prelim read): No evidence of new 
malignancy or recurrent malignancy
.
CT T spine (prelim read): There is a compression fracture of the 
T9 vertebral body with approximately 10% loss of height. This 
fracture appears to be acute; however, MRI could be used to 
better evaluate. There are bilateral pleural effusions, right 
greater  than the left 
.EEG:
BACKGROUND: A 9 Hz predominant posterior rhythm was seen, which 
attenuated with eye opening. Occasional independent bitemporal 
slower 
activity in the theta range was seen. 
HYPERVENTILATION: Could not be performed. 
INTERMITTENT PHOTIC STIMULATION: Produced no activation of the 
record. 
SLEEP: The patient progressed frm wake to drowsy sate, but did 
not 
attaine stage II sleep. 
CARDIAC MONITOR: A reneraly regular rhythm with an average rate 
of 90 
bpm and occasional irregularity was seen. 
IMPRESSION: This is a normal for age routine EEG in the awake 
and drowsy 
states. There were no lateralized or epileptiform features 
noted. Of 
note is the occasionally irregular ECG. 

 
Brief Hospital Course:
Neurology:
Pt. was admitted to the General Neurology service.  MRI Head was 
performed (see read above) and showed evidence of a subacute to 
chronic infarct with some hemorrhagic transformation.  This was 
felt to be the etiology of the hemorrhage seen on the initial 
Head CT.  On exam she was at times agitated and paranoid, which 
was felt to be a residual from her infarct.  Neurologic exam was 
otherwise normal (though limited by cooperation), with intact 
strength and sensation.  Given the location of her infarct she 
would be at risk to have a right superior quadrantanopsia, but 
this could not be tested given her cooperation.  Unfortunately 
not all series on the MRI could be performed because pt. became 
agitated, so no MRA of the head or neck were not done.  The team 
attempted to encourage her several times to have the MRA of the 
head performed but pt. refused.  Pt. was monitored on telemetry 
and was in A fib throughout her stay.  Her rate was in the ___ 
to 100s on her home dose of digoxin.  Atrial fibrillation with 
cardiac emboli was felt to be the most likely etiology of her 
stroke, though artery to artery embolus from the carotid could 
be be entirely ruled out without MRA.  She was continued on her 
home aspirin regimen.  Anti-coagulation with Coumadin was not 
started acutely given the hemorrhage seen on CT and MRI, but 
should be considered as the hemorrhage resolves given her risk 
for further cardioembolic strokes.
.
Pt. had a history of breast cancer, s/p mastectomy, BRCA +.  
There was initially some concern that the hemorrhage could have 
been due to an underlying mass lesion (though ultimately MRI was 
more consistent with subacute infarct)  CT of the torso was 
therefore performed (without contrast given contrast allergy) 
and showed no evidence of mass lesion or metastasis per prelim 
read.
.
An EEG was performed to rule out subclinical seizures 
contributing to her confusion and agitation.  This was normal, 
with no epileptiform discharges.
.
A CT of the thoracic spine showed an acute compression fracture, 
with 10% loss of disc height.  She had no back pain, so this not 
intervened on.
.
We recommended that she have an MRA or CTA of her head and neck 
and a TTE to complete her stroke work up.  She requested 
transfer to ___ to complete this work up, so this was arranged.
.
Cardiology: In A fib throughout her stay, continued on home dose 
of digoxin.  One set of cardiac enzymes negative, no chest pain 
in house.
.
Respiratory:  Given high d-dimer and recent complaints of 
dyspnea there was initially some concern for PE in ED.  Patient 
refused VQ scan, and could not get a CTA due to a contrast dye 
allergy.  Her respiratory status was stable on the floor, with 
no shortness of breath or hypoxia to suggest PE.

 
Medications on Admission:
Asa 81 daily
Digoxin .125 QOD
Omeprazole
Lasix
 
Discharge Medications:
1. Acetaminophen 325 mg Tablet Sig: ___ Tablets PO Q6H (every 6 
hours) as needed.  
2. Digoxin 125 mcg Tablet Sig: One (1) Tablet PO EVERY OTHER DAY 
(Every Other Day).  
3. Aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
4. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
5. Furosemide 40 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  

 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
R temporal infarct with hemorrhagic conversion

 
Discharge Condition:
Stable

 
Discharge Instructions:
You were admitted to the hospital after you had a fall at home.  
You were found on Head CT to have some bleeding in the right 
side of your brain.  An MRI of your head showed a stroke, which 
is likely the cause of the bleeding.

We would like to do some more tests to see why you had the 
stroke.  You have requested transfer to ___ to 
have these performed there, which we will arrange.  It will be 
important to have these tests completed so we can minimize your 
risk of having further strokes.
 
Followup Instructions:
___